US04515968
PREPARATION OF 2-BENZYL-4,5-DIMETHYL-1,3-DITHIOLANE
Into a 100 ml flask equipped with reflux condenser and magnetic stirring bar and hot plate equipped with magnetic stirring apparatus is placed 0.2 grams of para-toluenesulfonic acid, 5 ml cyclohexane and 6.1 grams (0.05 moles) of 2,3-butanedithiol. With stirring, over a period of 30 minutes, 6.0 grams (0.05 moles) of phenylacetaldehyde is added to the reaction mass. The reaction mass is then heated to reflux and refluxed for a period of 10 hours during which time water of formation is removed. After the 10 hour period, the reaction mass is cooled and transferred to a separatory funnel. The reaction mass is washed with one 50 ml portion of saturated sodium chloride, dried over anhydrous sodium sulfate and filtered. The resulting filtrate is then distilled on a Microvigreux column yielding the following four fractions:

reactant | para-toluenesulfonic acid | 0.2 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | cyclohexane | 5 ml | C1CCCCC1 | C6H12
reactant | 2,3-butanedithiol | 0.05 moles, 6.1 grams | CC(C(C)S)S | C4H10S2
reactant | phenylacetaldehyde | 0.05 moles, 6.0 grams | C1(=CC=CC=C1)CC=O | C8H8O
solvent | water | O | H2O
product | 2-BENZYL-4,5-DIMETHYL-1,3-DITHIOLANE | C(C1=CC=CC=C1)C1SC(C(S1)C)C | C12H16S2
